US06495542B1
To a solution of methyltriphenylphosphonium bromide (607 mg) in N,N-dimethylformamide (10 ml) was added potassium-tert-butoxide (191 mg), and the mixture was stirred at room temperature for 30 minutes. Methyl 2-methoxy-4-(2,3,4,5-tetrahydro-5-oxo-1H-1-benzazepin-1-yl)carbonylbenzoate (300 mg) was added to the resulting solution, and the mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate and the solution was washed successively with 1N hydrochloric acid, water and brine. The organic layer was dried over magnesium sulfate and the solvent was evaporated in vacuo to give an oil. The crude product was purified by silica gel column chromatography (10% ethyl acetate in hexane) to give methyl 2-methoxy-4-(2,3,4,5-tetrahydro-5-methylene-1H-1-benzazepin-1-yl)carbonylbenzoate (65 mg).

reactant | potassium-tert-butoxide | 191 mg | CC(C)([O-])C.[K+]
reactant | Methyl 2-methoxy-4-(2,3,4,5-tetrahydro-5-oxo-1H-1-benzazepin-1-yl)carbonylbenzoate | 300 mg | COC1=C(C(=O)OC)C=CC(=C1)C(=O)N1CCCC(C2=C1C=CC=C2)=O | C20H19NO5
catalyst | methyltriphenylphosphonium bromide | 607 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-methoxy-4-(2,3,4,5-tetrahydro-5-methylene-1H-1-benzazepin-1-yl)carbonylbenzoate | 65 mg | COC1=C(C(=O)OC)C=CC(=C1)C(=O)N1CCCC(C2=C1C=CC=C2)=C | C21H21NO4
